US05496870
To a reaction vessel equipped with a stirrer, 100 gm of ARONIX M113 manufactured by Toagosei Chemicals, 124.7 gm of isophorone diisocyanate, 1 gm of dibutyltindilaurate, and 0.3 gm of 2,6-di-t-butyl-4-methylphenol were added. To this, 842.7 gm of a copolymerized diol of ethylene oxide and 1.2-butylene oxide [ethylene oxide:1,2-butylene oxide =2:8 (by weight)] of a number average molecular weight of 2,000 was added while maintaining the temperature in the 40° to 50° C. range, and the mixture was reacted for 2 hours. Then 32.6 gm of hydroryethylacrylate was added, after which the mixture was continuously stirred for 5 hours at 50° to 60° C. to complete the reaction. A urethane acrylate [A-3] of a number average molecular weight of about 7,120 was obtained.

reactant | isophorone diisocyanate | 124.7 gm | O=C=NC1CC(CN=C=O)(CC(C1)(C)C)C | C12H18N2O2
reactant | 2,6-di-t-butyl-4-methylphenol | 0.3 gm | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | ethylene oxide | C1CO1 | C2H4O
reactant | 1.2-butylene oxide | C1C(CC)O1 | C4H8O
product | urethane acrylate | C(C=C)(=O)O.NC(=O)OCC | InChI=1S/C3H7NO2.C3H4O2/c1-2-6-3(4)5;1-2-3(4)5/h2H2,1H3,(H2,4,5);2H,1H2,(H,4,5)
